US04571396
1-Ethyl-7-(5-ethyl-2,5-diazabicyclo[2.2.2]-oct-2-yl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, hydroiodide
A solution of 0.35 g (1.0 mmole) of 7-(2,5-diazabicyclo[2.2.2]oct-2-yl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, 0.32 ml (4.0 mmole) of ethyl iodide, 0.56 ml (4.0 mmole) triethylamine and 10 ml of N, N-dimethylformamide was heated at 100° for 17 hours. The reaction mixture was evaporated to dryness and the residue was stirred with 25 ml of 1 N sodium hydroxide for one hour. The solution was neutralized to pH 7 with 1 N hydrochloric acid, filtered and evaporated the filtrate to dryness. The residue was recrystallized from ethanol to give 0.29 g of the title compound, mp>300°.

reactant | 7-(2,5-diazabicyclo[2.2.2]oct-2-yl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 1.0 mmole, 0.35 g | C12N(CC(NC1)CC2)C2=C(C=C1C(C(=CN(C1=N2)CC)C(=O)O)=O)F | C17H19FN4O3
reactant | ethyl iodide | 4.0 mmole, 0.32 ml | C(C)I | C2H5I
reactant | triethylamine | 4.0 mmole, 0.56 ml | C(C)N(CC)CC | C6H15N
solvent | N, N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-Ethyl-7-(5-ethyl-2,5-diazabicyclo[2.2.2]-oct-2-yl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, hydroiodide | 0.29 g | I.C(C)N1C=C(C(C2=CC(=C(N=C12)N1C2CN(C(C1)CC2)CC)F)=O)C(=O)O | InChI=1S/C19H23FN4O3.HI/c1-3-22-8-12-6-5-11(22)9-24(12)18-15(20)7-13-16(25)14(19(26)27)10-23(4-2)17(13)21-18;/h7,10-12H,3-6,8-9H2,1-2H3,(H,26,27);1H
